US05475110
Preparation of 3-Phenyl-5H,6H, 12H, 13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)-one (Compound I-27)
A solution of 3-bromo-5H, 6H, 12H, 13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one (Compound I-9) (100 mg, 0.26 mmol), phenylboronic acid (35 mg, 0.29 mmol) and bis(triphenylphosphine)palladium(II) chloride (25 mg) in DMF (5 ml) was heated in a sealed reaction tube at 100°-110° C. for 24 hours. The mixture was cooled to ambient temperature, filtered through a pad of Celite® and concentrated at reduced pressure. The product was triturated with THF to give 77 mg of a brown solid which contained product and starting material. HPLC purification gave Compound I-27 as a tan solid. The melting point was greater than 300 ° C. The following NMR data were obtained: 1H NMR (DMSO-d6, 300 MHz): 4.2 (s, 2H), 5.05 (s, 2H), 7.3-7.55 (m, 5H), 7.7 (d, 2H, J=8 Hz), 7.8-7.9 (m, 3H), 8.2 (s, 1H); 8.6 (s, 1H), 9.4 (d, 1H, J=9 Hz), 12.0 (s, 1H). MS(FAB): m/e 387 (m+1)+.

reactant | 3-bromo-5H, 6H, 12H, 13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one | 0.26 mmol, 100 mg | BrC1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C21H13BrN2O
reactant | phenylboronic acid | 0.29 mmol, 35 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Phenyl-5H,6H, 12H, 13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)-one | 77 mg | C1(=CC=CC=C1)C1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C27H18N2O
